US07465836B2
3-(Benzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile (14)
This was prepared as per the procedure in Example 11, from 2-(3-cyanophenyl)-[1,3,2]-dioxaborolane and 1-bromo-2-((methoxymethoxy)methyl)benzene to afford white crystalline product.

reactant | 2-(3-cyanophenyl)-[1,3,2]-dioxaborolane | C(#N)C=1C=C(C=CC1)B1OCCO1 | C9H8BNO2
reactant | 1-bromo-2-((methoxymethoxy)methyl)benzene | BrC1=C(C=CC=C1)COCOC | C9H11BrO2
product | 3-(Benzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile | B1(OCC2=C1C=CC=C2)C=2C=C(C#N)C=CC2 | C14H10BNO
